US04377695
8-(6-Methyl-2-oxo-benzoxazolin-3-yl)-caprylic acid methyl ester
The product is produced as described in example 1 from 3.6 g. of NaH (of 80% suspension in mineral oil), 19.9 g. of 6-methylbenzoxazolin-2-one (produced in usual manners by subjecting 2-amino-5-methyl-phenol-hydrochloride to reaction with phosgene), 240 cc. of DMF, 28.4 g. of 8-bromo caprylic acid methyl ester and 3.6 g. NaJ.

reactant | NaH | [H-].[Na+]
reactant | 6-methylbenzoxazolin-2-one | CC1=CC2=C(NC(O2)=O)C=C1 | C8H7NO2
reactant | 8-bromo caprylic acid methyl ester | COC(CCCCCCCBr)=O | C9H17BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-(6-Methyl-2-oxo-benzoxazolin-3-yl)-caprylic acid methyl ester | COC(CCCCCCCN1C(OC2=C1C=CC(=C2)C)=O)=O | C17H23NO4
